US08003685B2
5-(3,3-Dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(trans-4-[1,2,3]triazol-1-yl-cyclohexyl)-amino]-thiophene-2-carboxylic acid
5-(3,3-Dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(trans-4-[1,2,3]triazol-1-yl-cyclohexyl)-amino]-thiophene-2-carboxylic acid methyl ester (0.27 g, 0.52 mmol) is hydrolysed with lithium hydroxide as previously described (example 1, step VI) to give after HPLC purification 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(trans-4-[1,2,3]triazol-1-yl-cyclohexyl)-amino]-thiophene-2-carboxylic acid.

reactant | 5-(3,3-Dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(trans-4-[1,2,3]triazol-1-yl-cyclohexyl)-amino]-thiophene-2-carboxylic acid methyl ester | 0.52 mmol, 0.27 g | COC(=O)C=1SC(=CC1N([C@@H]1CC[C@H](CC1)N1N=NC=C1)C(=O)[C@@H]1CC[C@H](CC1)C)C#CC(C)(C)C | C28H38N4O3S
reactant | lithium hydroxide | [OH-].[Li+]
product | 5-(3,3-Dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(trans-4-[1,2,3]triazol-1-yl-cyclohexyl)-amino]-thiophene-2-carboxylic acid | CC(C#CC1=CC(=C(S1)C(=O)O)N([C@@H]1CC[C@H](CC1)N1N=NC=C1)C(=O)[C@@H]1CC[C@H](CC1)C)(C)C | C27H36N4O3S
